US04219559
A mixture of 3.7 parts of N-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]-N'-(2-nitrophenyl)thiourea, 7 parts of iron-powder, 0.25 parts of concentrated hydrochloric acid, 48 parts of ethanol and 15 parts of water is stirred and refluxed for 1 hour. The reaction mixture is alkalized with methanol saturated with ammonia. The whole is filtered and the filtrate is evaporated, yielding 3.5 parts of N-(2-aminophenyl)-N'-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}-ethyl]thiourea as a residue.

reactant | N-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]-N'-(2-nitrophenyl)thiourea | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(=S)NC2=C(C=CC=C2)[N+](=O)[O-] | C28H30FN7O2S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonia | N | H3N
catalyst | iron | [Fe] | Fe
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | N-(2-aminophenyl)-N'-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}-ethyl]thiourea | NC1=C(C=CC=C1)NC(=S)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C28H32FN7S
